data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_95697_1,[C:1](/[C:4](=[C:3](/[C:2]([H:13])([H:14])[H:15])[O:7][H:10])[H:12])([O:5][H:8])([O:6][H:9])[H:11]>>[C@@:1]1([O:5][H:8])([H:11])[C@:3]([C:2]([H:13])([H:14])[H:15])([O:7][H:10])[C@@:4]1([O:6][H:9])[H:12],67.62442000001343
MR_126424_0,[C@:1]([C:2]([H:11])([H:12])[H:13])([C:6](=[C:5]([C:3]([H:14])([H:15])[H:19])[C:4]([H:16])([H:17])[H:18])[H:10])([N:7]=[O:8])[H:9]>>[C@@:1]1([C:2]([H:11])([H:12])[H:13])([H:9])[C:5]([C:3]([H:14])([H:15])[H:19])([C:4]([H:16])([H:17])[H:18])[C@:6]1([N:7][O:8])[H:10],64.34887000000813
MR_439029_0,[C:1]1([C:4]([H:13])([H:14])[H:15])([C:5]([H:11])([H:12])[H:16])[C:2]([N:7]=[C:6]([H:17])[H:18])([H:8])[C:3]1([H:9])[H:10]>>[C:1]([C:3]([C@:2]1([H:8])[C:6]([H:17])[N:7]1)([H:9])[H:10])([C:4]([H:13])([H:14])[H:15])([C:5]([H:11])([H:12])[H:16])[H:18],48.225257499982064
MR_141990_0,[C:1]([C:2]([N:5][C:3]([O:4][H:7])[H:8])=[O:6])([H:9])([H:10])[H:11]>>[C:1]([C:2]1=[N:5][C@:3]([O:4][H:7])([H:8])[O:6]1)([H:9])([H:10])[H:11],26.547014999997742
MR_223104_0,[C:1]([N:2]([C:3]([N:5]([H:9])[H:11])=[O:8])[C:4]([N:6]([H:10])[H:12])=[O:7])([H:13])([H:14])[H:15]>>[C:1](/[N:2]=[C:4](/[N:6]([H:10])[H:12])[O:7][C:3]([N:5]([H:9])[H:11])=[O:8])([H:13])([H:14])[H:15],50.19121499997652
MR_250501_1,[C:1]([O:5][O:4][C:3]([C:2]([H:11])([H:12])[H:13])=[O:7])([O:6][H:8])([H:9])[H:10]>>[C:1]([O:6][H:8])([O:7][C:3]1([C:2]([H:11])([H:12])[H:13])[O:4][O:5]1)([H:9])[H:10],69.30988500000268
MR_362812_1,[N:1]([C:2]([O:6][H:10])=[O:8])(/[C:4]([C:3]([N:5]([H:12])[H:13])=[O:9])=[N:7]\[H:14])[H:11]>>[N:1](=[C:2](\[O:6][H:10])[O:8]/[C:4]([C:3]([N:5]([H:12])[H:13])=[O:9])=[N:7]\[H:14])\[H:11],63.56010250003777
MR_201170_1,[C:1]([C:2](=[O:6])[H:10])([O:5]/[N:7]=[C:4](/[C:3]([H:12])([H:13])[H:14])[H:11])([H:8])[H:9]>>[C:1]1([O:5]/[N:7]=[C:4](/[C:3]([H:12])([H:13])[H:14])[H:11])([H:8])[C:2]([H:9])([H:10])[O:6]1,69.84200500001464
MR_559170_1,[C@@:1]1(/[C:5]([C:2]([H:11])([H:12])[H:13])=[C:6](/[C:3]([H:14])([H:15])[H:16])[H:10])([H:9])[N:4]([H:8])[O:7]1>>[C:1]1([H:9])=[C:5]([C:2]([H:11])([H:12])[H:13])[C@:6]([C:3]([H:14])([H:15])[H:16])([H:10])[N:4]([H:8])[O:7]1,54.75816000000293
MR_335364_2,[C:1](/[C:4]([O:6][H:9])=[N:7]\[C:2]([H:13])([H:14])[H:15])(/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:8]/[H:10])([H:11])[H:12]>>[C:1](=[C:5]([C:3]([H:16])([H:17])[H:18])[N:8](/[C:4]([O:6][H:9])=[N:7]\[C:2]([H:13])([H:14])[H:15])[H:10])([H:11])[H:12],64.53398250004014
MR_275298_0,[C:1]([C:3](/[C:2]([N:4]([H:9])[H:10])=[C:5](/[C:6](=[C:7]([H:17])[H:18])[H:13])[H:12])=[N:8]/[H:11])([H:14])([H:15])[H:16]>>[C:1]([C:3](/[C:5](=[C:2](\[N:4]([H:9])[H:10])[C:6](=[C:7]([H:17])[H:18])[H:13])[H:12])=[N:8]/[H:11])([H:14])([H:15])[H:16],73.27192000002256
MR_374040_2,[C:1]([C:2]([H:16])([H:17])[H:18])([C:3]([H:14])([H:15])[H:19])(/[C:4]([C:6]([N:8][H:12])[H:13])=[N:7]\[H:11])[N:5]([H:9])[H:10]>>[C:1]([C:2]([H:16])([H:17])[H:18])([C:3]([H:14])([H:15])[H:19])([N:5]([H:9])[H:10])[C@@:6]1([H:13])/[C:4](=[N:7]\[H:11])[N:8]1[H:12],72.03072500001738
MR_16569_0,[C:1]([C:3]([H:14])([H:15])[H:16])([O:7]/[C:5](=[N:4]/[C:2]([H:11])([H:12])[H:13])[O:6][H:8])([H:9])[H:10]>>[C:1]([C:3]([H:14])([H:15])[H:16])([N:4]([C:2]([H:11])([H:12])[H:13])[C:5]([O:6][H:8])=[O:7])([H:9])[H:10],49.172155000016886
MR_109487_1,[C:1]([N:2](/[C:3](=[C:4](/[N:6]([H:13])[H:14])[O:8][H:10])[N:5]([H:11])[H:12])/[C:7](=[N:9]\[H:15])[H:16])([H:17])([H:18])[H:19]>>[C:1](/[N:2]=[C:3](\[C@@:4]([N:6]([H:13])[H:14])(/[C:7](=[N:9]\[H:15])[H:16])[O:8][H:10])[N:5]([H:11])[H:12])([H:17])([H:18])[H:19],52.491002499984205
MR_576144_1,[C:1]([C@:2]([C:6]([H:22])([H:23])[H:24])([N:7]([O:8][H:10])[O:9][H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[C:5]([H:19])([H:20])[H:21]>>[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[N:7]([C@:2]([C:6]([H:22])([H:23])[H:24])([O:9][H:11])[H:12])[O:8][H:10],71.20179750000574
MR_148542_0,[C:1]([C:3]([C:2]([C:5]([H:18])([H:19])[H:20])(/[N:7]=[N:8]\[H:12])[H:11])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])([O:6][H:9])[H:10]>>[C:1]([C:3]([C:2]([C:5]([H:18])([H:19])[H:20])([N:7]([N:8]([H:9])[H:12])[H:10])[H:11])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])=[O:6],55.09826500000031
MR_283949_0,[C:1]1([H:11])([H:12])[C:4]([C:2]([H:16])([H:17])[H:18])([H:9])[C:8]([C:3]([H:19])([H:20])[H:21])([H:15])[C:7]1(/[C:6](=[N:5]/[H:10])[H:13])[H:14]>>[C:1](/[C:4]([C:2]([H:16])([H:17])[H:18])=[C:8](\[C:3]([H:19])([H:20])[H:21])[H:15])(/[C:7](=[C:6](\[N:5]([H:9])[H:10])[H:13])[H:14])([H:11])[H:12],59.13371750001318
MR_306782_2,[C@@:1](/[C:4]([C:3]([H:17])([H:18])[H:19])=[C:6](\[N:5]([H:11])[H:12])[H:13])([O:7][C:2]([H:14])([H:15])[H:16])([O:8][H:9])[H:10]>>[C:1](=[C:4](/[C:3]([H:17])([H:18])[H:19])[C@@:6]([N:5]([H:11])[H:12])([O:7][C:2]([H:14])([H:15])[H:16])[H:13])(\[O:8][H:9])[H:10],52.74262999999095
MR_182362_1,[C:1](/[C:2]([N:3]([H:9])[H:10])=[N:7]/[H:11])(/[C:4](=[N:6]/[O:5][H:8])[H:14])([H:12])[H:13]>>[C:1](=[C:2]([N:3]([H:9])[H:10])[N:7](/[C:4](=[N:6]/[O:5][H:8])[H:14])[H:11])([H:12])[H:13],66.24266500000644
